US05438052
Methyl 2-(acetoxymethyl)-4,7-dihydro-7-oxo-s-triazolo[1,5-a]pyrimidine-5-carboxylate (500 mg) (1.87 mmol) are suspended in 20 l of phosphorus oxychloride. The suspension is held under reflux for 5 hours. The mixture is concentrated in a water-jet vacuum, the residue is treated with dichloromethane and ice/water and extracted several times with dichloromethane. After drying and evaporation of the extract the product is crystallized from methanol. There are obtained 400 mg of methyl 2-(acetoxymethyl)-7-chloro-s-triazolo[1,5-a]pyrimidine-5-carboxylate.

reactant | Methyl 2-(acetoxymethyl)-4,7-dihydro-7-oxo-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 1.87 mmol, 500 mg | C(C)(=O)OCC1=NN2C(NC(=CC2=O)C(=O)OC)=N1 | C10H10N4O5
reactant | phosphorus oxychloride | 20 l | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 2-(acetoxymethyl)-7-chloro-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 400 mg | C(C)(=O)OCC1=NN2C(N=C(C=C2Cl)C(=O)OC)=N1 | C10H9ClN4O4
